US04551460
A solution of 22 g of 6-(3-pyridyl)hexanol in 100 ml of chloroform was cooled in an ice bath and treated with a solution of 21.9 g of thionyl chloride in 50 ml of chloroform. The reaction mixture was allowed to warm to room temperature over 1 hour, was heated to a bath temperature of 60° C. for 1 hour and was concentrated. The residue was taken up in chloroform, washed with saturated potassium carbonate, dried, and evaporated. The residue was distilled to give 20.5 g (84%) of 6-(3-pyridyl)hexylchloride, bp 180°-190° C./0.15 mm.

reactant | 6-(3-pyridyl)hexanol | 22 g | N1=CC(=CC=C1)CCCCCCO | C11H17NO
reactant | thionyl chloride | 21.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3-pyridyl)hexylchloride | 20.5 g, 84% | N1=CC(=CC=C1)CCCCCCCl | C11H16ClN
